Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am going crazy, this has never happened to me before".

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ male with no prior 
psychiatric history who is referred by the emergency department 
for a  safety assessment, diagnostic clarification and 
disposition management.  The patient tells me that everything 
started a few weeks ago when he decided to make an offer on a 
condominium.  He states that he has left his entire life with 
his parents.  His mother died ___ years ago and he continued to 
live with his father.  He describes his mother's ___ year long 
history of severe epilepsy and then her death from leukemia as a 
very stressful and painful part of his life. More recently he 
feels that his father has been argumentative, accuses him of not 
participating in household chores and he decided that he should 
move out. Since making the offer on this condominium and having 
it accepted he has become increasingly anxious.  Over the course 
of the last week his thoughts have started to race, he has been 
unable to sleep, has been thinking that he might not survive 
this. It turns out that today was actually the day he was 
supposed to sign the purchase and sale.  He came to the 
emergency department because he could not face the reality of 
buying this condominium.  He feels trapped, he is 
catastrophizing and, feels he cannot get out of this deal. He 
has had a full cardiac work-up that has been negative. He has 
also been tried on lorazepam with little to no effect. The 
patient describes a life of avoidance and isolation. He reports 
not having a lot of friends (has one female friend) but says 
that he would have liked to be able to have friends. He 
describes social anxiety, is very sensitive to criticism, says 
that he is very shy. Has lived with his parents his whole life. 
Has stayed in the same job in a call ___ the ___ for 
___ years.

PSYCHIATRIC ROS: Depression - hopelessness, guilt, difficulty 
concentrating and sleep disturbances. Psychosis - denies. Mania- 
denies. Anxiety - panic attacks

MEDICAL ROS: All negative on a 10-point ROS except for residual 
chest pain.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: none

PAST MEDICAL HISTORY: Not relevant for current psychiatric 
presentation.

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Mother with depression

 
Physical Exam:
Exam:
*VS: T: 98.2 PO, BP: 113/71, HR: 61, RR: 17, O2: 99% RA, height: 
69 in,  weight: 76.2 kgs, BMI: 24.8

Neurological:
  *station and gait: Narrow based, no ataxia
  *tone and strength: Moves all extremities antigravity 
symmetrically with full  strength
  *cranial nerves: EOMI, face symmetric, hearing grossly intact
  *abnormal movements: no evidence of tremor or asterixis
  *frontal release: no evidence of grasp 
  *Appearance: appears stated age, well groomed, cooperative and 
engaged 
  
Behavior:
  *Mood and Affect: "Good"/ congruent
  *Thought process: Linear goal oriented w/o LOA
  *Thought Content: Denies SI/HI/hallucinations 
  *Judgment and Insight: good/good
  
Cognition:
  *Attention, orientation, and executive function: AAO x3
  *Memory: Intact to remote and recent events 
  *Fund of knowledge: Appropriate for educational level
  *Speech: Regular tone, rate, no evidence of dysarthria or 
aprosodia
  *Language: Native ___ speaker
 
Pertinent Results:
Blood: 
___ 01:57PM BLOOD WBC-7.4 RBC-4.62 Hgb-13.8 Hct-41.7 MCV-90 
MCH-29.9 MCHC-33.1 RDW-14.4 RDWSD-47.5* Plt ___
___ 01:57PM BLOOD Neuts-70.8 Lymphs-18.3* Monos-8.3 Eos-1.9 
Baso-0.3 Im ___ AbsNeut-5.26 AbsLymp-1.36 AbsMono-0.62 
AbsEos-0.14 AbsBaso-0.02
___ 01:57PM BLOOD Plt ___
___ 01:57PM BLOOD Glucose-108* UreaN-19 Creat-0.6 Na-141 
K-4.2 Cl-104 HCO3-24 AnGap-13
___ 01:57PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Urine:
___ 01:59PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:59PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-80* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:59PM URINE RBC-3* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 01:59PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION
 
Brief Hospital Course:
1. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
# Adjustment d/o with anxiety
___ y/o man with medical history of anxiety and BPH admitted to 
the psychiatry unit with heightened anxiety, chest pain and 
shallow breathing after putting down a deposit for ___ in 
the setting of a deteriorating relationship with his elderly 
father for whom he is the primary caregiver. He reported, "I 
need a reset". Endorsed diminished sleep, energy, appetite since 
informing his father about his decision to move out. Patient 
also reported recent panic attacks with shortness of breath and 
chest-tightening; presented to ED for w/u which was negative. 
MSE notable for mood congruent euthymic affect, linear thought 
process, and thought content absent for suicidal ideation or 
thoughts/urges to engage in self-harm or harm of others. No 
evidence of internal preoccupation. Judgment and insight fair. 
Presentation consistent with adjustment disorder w/ anxious 
features, likely superimposed on anxious diathesis. Therapeutic 
interventions included individualized, group, and milieu 
therapy. Medical management was initiated with lorazepam 0.5mg 
BID PRN anxiety, Trazodone 50mg QHS, and fluoxetine 20mg PO 
daily. Mental status exam on discharge notable for improved 
mood, linear thought process, no SI/HI/hallucinations, mood 
congruent affect.  
.
4. MEDICAL
#BPH: Continue home alfuzosin 10 mg oral DAILY 
#Palpitations: Continue nadolol 30mg daily
#Musculoskeletal Pain: Apply lidocaine patch PRN as per PCP ___
.
5. PSYCHOSOCIAL
# GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  He was interactive with peers. 
.
# COLLATERAL CONTACTS & FAMILY INVOLVEMENT
PCP ___- ___
Sister ___- Following closely and participating of family 
meetings for care coordination
 .
# INTERVENTIONS
 - Medications: lorazepam 0.5mg BID PRN anxiety, Trazodone 50mg 
QHS, and fluoxetine 20mg PO daily. 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: As per discharge worksheet section
 - Behavioral Interventions: Encouraged outpatient therapy
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting fluoxetine, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
severe anxiety.  Their static factors noted at that time include 
male gender, age, marital status. The modifiable risk factors 
such as hopelessness, lack of coping skills were addressed with 
individual and group therapy. He had no established outpatient 
treatment so care was coordinated. Finally, the patient is being 
discharged with many protective risk factors, such as 
help-seeking nature, future-oriented viewpoint, lack of suicidal 
ideation, no history of substance use disorder, and strong 
social supports. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 30 mg PO DAILY 
2. alfuzosin 10 mg oral DAILY 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  LORazepam 0.5 mg PO DAILY:PRN severe anxiety  
RX *lorazepam 0.5 mg 1 tablet by mouth daily Disp #*14 Tablet 
Refills:*0 
3.  TraZODone 50 mg PO QHS insomnia  
RX *trazodone 50 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  alfuzosin 10 mg oral DAILY  
5.  Lidocaine 5% Patch 1 PTCH TD QAM  
6.  Nadolol 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder w/ anxious features

 
Discharge Condition:
MSE notable for mood congruent euthymic affect, linear thought 
process, and thought content absent for suicidal ideation or 
thoughts/urges to engage in self-harm or harm of others. No 
evidence of internal preoccupation. Judgment and insight 
improved.

 
Discharge Instructions:
You were hospitalized at ___ for severe anxiety.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___